*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-301_freq port1 port2 PARAMS: Cpar=15.7pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.064
+ K3= {Ind}
+ K4=0.00465
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=133.155472
.ends SER2009-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-301_imp port1 port2 PARAMS: Cpar=14.15pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.064
+ K3= {Ind}
+ K4=0.00465
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=133.155472
.ends SER2009-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-501_freq port1 port2 PARAMS: Cpar=19pF Ind=0.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=275
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.07
+ K3= {Ind}
+ K4=0.00163
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=151.477474
.ends SER2009-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-501_imp port1 port2 PARAMS: Cpar=18.64pF Ind=0.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=275
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.07
+ K3= {Ind}
+ K4=0.00163
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=151.477474
.ends SER2009-501_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-601_freq port1 port2 PARAMS: Cpar=19pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=275
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.07
+ K3= {Ind}
+ K4=0.00163
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=162.597959
.ends SER2009-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-601_imp port1 port2 PARAMS: Cpar=18.71pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=275
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000027
+ K2=0.07
+ K3= {Ind}
+ K4=0.00163
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=162.597959
.ends SER2009-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-681_freq port1 port2 PARAMS: Cpar=23pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=230
+ R2=0.000588
+ C= {Cpar}
+ K1=0.00006
+ K2=0.079
+ K3= {Ind}
+ K4=0.00123
+ K5=0.00000385
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=163.960357
.ends SER2009-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-681_imp port1 port2 PARAMS: Cpar=22.79pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=230
+ R2=0.000588
+ C= {Cpar}
+ K1=0.00006
+ K2=0.079
+ K3= {Ind}
+ K4=0.00123
+ K5=0.00000385
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=163.960357
.ends SER2009-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-801_freq port1 port2 PARAMS: Cpar=30pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=340
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000033
+ K2=0.108
+ K3= {Ind}
+ K4=0.00022
+ K5=3.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=156.263168
.ends SER2009-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-801_imp port1 port2 PARAMS: Cpar=29.98pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=340
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000033
+ K2=0.108
+ K3= {Ind}
+ K4=0.00022
+ K5=3.15E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=156.263168
.ends SER2009-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-901_freq port1 port2 PARAMS: Cpar=31.3pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=260
+ R2=0.000588
+ C= {Cpar}
+ K1=0.00008
+ K2=0.116
+ K3= {Ind}
+ K4=0.00429
+ K5=0.000007
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=165.931749
.ends SER2009-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-901_imp port1 port2 PARAMS: Cpar=30.50pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=260
+ R2=0.000588
+ C= {Cpar}
+ K1=0.00008
+ K2=0.116
+ K3= {Ind}
+ K4=0.00429
+ K5=0.000007
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=165.931749
.ends SER2009-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-102_freq port1 port2 PARAMS: Cpar=32.3pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=220
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000045
+ K2=0.115
+ K3= {Ind}
+ K4=0.00165
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=177.351104
.ends SER2009-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-102_imp port1 port2 PARAMS: Cpar=32.05pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=220
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000045
+ K2=0.115
+ K3= {Ind}
+ K4=0.00165
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=177.351104
.ends SER2009-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-122_freq port1 port2 PARAMS: Cpar=27pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=235
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000084
+ K2=0.096
+ K3= {Ind}
+ K4=0.00385
+ K5=0.0000043
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=196.094263
.ends SER2009-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-122_imp port1 port2 PARAMS: Cpar=26.59pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=235
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000084
+ K2=0.096
+ K3= {Ind}
+ K4=0.00385
+ K5=0.0000043
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=196.094263
.ends SER2009-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2009-202_freq port1 port2 PARAMS: Cpar=45pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=245
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000035
+ K2=0.16
+ K3= {Ind}
+ K4=0.023
+ K5=0.00000838
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=205.961741
.ends SER2009-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2009-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2009-202_imp port1 port2 PARAMS: Cpar=42.44pF Ind=2uH
X1 port1 port2 Model1D PARAMS:
+ R1=245
+ R2=0.000588
+ C= {Cpar}
+ K1=0.000035
+ K2=0.16
+ K3= {Ind}
+ K4=0.023
+ K5=0.00000838
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=205.961741
.ends SER2009-202_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
